US04960766
A mixture of benzhydryl 7β-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate 1-oxide iodide (syn isomer, 5.3 g) and N,N-dimethylformamide (50 ml) was stirred at -33° C. and phosphorus trichloride (1.68 g) was added thereto with stirring. The reaction mixture was stirred for 10 minutes at the same temperature, and poured into water (400 ml). Precipitates were collected by filtration and washed with water to give benzhydryl 7β-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide (syn isomer, 4.95 g).

reactant | benzhydryl 7β-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate 1-oxide iodide | 5.3 g | [I-].C1(C=CCC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2=O)C[N+]=2N(C=CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | phosphorus trichloride | 1.68 g | P(Cl)(Cl)Cl | Cl3P
solvent | water | 400 ml | O | H2O
product | benzhydryl 7β-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide | 4.95 g | [I-].C1(C=CCC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | InChI=1S/C36H33N7O6S2.HI/c1-41-17-10-18-42(41)19-25-20-50-34-29(39-32(45)28(40-49-26-15-8-9-16-26)27-21-51-36(38-27)37-22-44)33(46)43(34)30(25)35(47)48-31(23-11-4-2-5-12-23)24-13-6-3-7-14-24;/h2-8,10-15,17-18,21-22,26,29,31,34H,9,16,19-20H2,1H3,(H-,37,38,39,44,45);1H/t26?,29-,34-;/m1./s1
